US05110983
reacting 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane with an aromatic, halogen-containing nitro compound or dinitro compound, or reacting 2-(4-methylphenyl)-2-hexafluoroisopropanol with 4-methyldiphenyl ether in the presence of anhydrous hydrofluoric acid to give 2-(4-methylphenyl)-2-[4-(4-methylphenoxy)phenyl]hexafluoropropane,

reactant | 2-(4-hydroxyphenyl)-2-(4-methylphenyl)hexafluoropropane | OC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)C | C16H12F6O
reactant | 4-methyldiphenyl ether | CC1=CC=C(C=C1)OC2=CC=CC=C2 | C13H12O
reactant | hydrofluoric acid | F | FH
product | 2-(4-methylphenyl)-2-[4-(4-methylphenoxy)phenyl]hexafluoropropane | CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)C1=CC=C(C=C1)OC1=CC=C(C=C1)C | C23H18F6O
